US07557112B2
A mixture of 870 mg of 2-(4-chloro-2,5-difluorophenyl)-4-piperazine-1-ylthieno[3,2-d]pyrimidine, 1.08 ml of (R)-glycidol and 15 ml of THF was stirred for 21 hours heated to reflux. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (chloroform-MeOH) to give a foam-like substance. After the obtained foam-like substance was dissolved in 10 ml of EtOH and was added to 2 ml of 4M HCl-dioxane solution, it was concentrated under reduced pressure to give a solid. This solid was recrystallized from ethanol to give 898 mg of (S)-3-{4-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]piperazine-1-yl}propane-1,2-diol dihydrochloride.

reactant | 2-(4-chloro-2,5-difluorophenyl)-4-piperazine-1-ylthieno[3,2-d]pyrimidine | 870 mg | ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)C=CS2)N2CCNCC2)F | C16H13ClF2N4S
reactant | (R)-glycidol | 1.08 ml | C1[C@H](O1)CO | C3H6O2
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | HCl dioxane | 4M, 2 ml | Cl.O1CCOCC1
solvent | EtOH | 10 ml | CCO | C2H6O
product | (S)-3-{4-[2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine-4-yl]piperazine-1-yl}propane-1,2-diol dihydrochloride | 898 mg | Cl.Cl.ClC1=CC(=C(C=C1F)C=1N=C(C2=C(N1)C=CS2)N2CCN(CC2)C[C@@H](CO)O)F | InChI=1S/C19H19ClF2N4O2S.2ClH/c20-13-8-14(21)12(7-15(13)22)18-23-16-1-6-29-17(16)19(24-18)26-4-2-25(3-5-26)9-11(28)10-27;;/h1,6-8,11,27-28H,2-5,9-10H2;2*1H/t11-;;/m0../s1
